US07495001B2
In analogy to the procedures described in example 5C] and 5D], (4-hydroxy-naphthalen-1-yloxy)-acetic acid ethyl ester was reacted with [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 1L]) to give [rac]-(4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-1-yloxy)-acetic acid ethyl ester, which was subsequently saponified to yield the title compound as light yellow solid.

reactant | (4-hydroxy-naphthalen-1-yloxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)O)=O | C14H14O4
reactant | [rac]-3-(1-chloro-ethyl)-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H13ClF3N
product | [rac]-(4-{1-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-ethoxy}-naphthalen-1-yloxy)-acetic acid ethyl ester | C(C)OC(COC1=CC=C(C2=CC=CC=C12)OC(C)C=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O | C29H26F3NO4
